US04500601
5-(Methacryloyloxyethoxymethyl)-8-hydroxyquinoline (compound 1 above)
5-Chloromethyl-8-hydroxyquinoline (46 g) (prepared by the method of Kolobielski, J. Heterocyclic Chem. 275, (1966)), sodium acetate (16.4 g) and hydroxyethyl methacrylate (200 ml) were stirred and heated on a steam bath for 5 hours, and the resulting slurry was dissolved in water (1 liter). Solid sodium carbonate was added until alkaline, and then the precipitate was collected, washed with water, dissolved in ether (500 ml), dried with MgSO4, and then treated with HCl gas to precipitate the hydrochloride salt. The latter was collected, washed with ether, air dried, dissolved in water (1 liter), and treated with solid sodium carbonate until alkaline. The resulting precipitate was collected, washed with water, dried, and crystallized from light petroleum (b.p. 60°-80° C.) to give 23 g colorless needles, m.p. 90°-1° C.

reactant | 5-Chloromethyl-8-hydroxyquinoline | 46 g | ClCC1=C2C=CC=NC2=C(C=C1)O | C10H8ClNO
reactant | sodium acetate | 16.4 g | C(C)(=O)[O-].[Na+]
reactant | hydroxyethyl methacrylate | 200 ml | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 1 liter | O | H2O
product | 5-(Methacryloyloxyethoxymethyl)-8-hydroxyquinoline | 23 g | C(C(=C)C)(=O)OCCOCC1=C2C=CC=NC2=C(C=C1)O | C16H17NO4
